US08937176B2
6.02.14.06 (1-Ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-acetic acid
930 mg sodium hydroxide in 6 mL water was added to 525 mg (1-ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-acetonitrile in 2 mL DMSO. The reaction was stirred 4 h at 100° C. The mixture was diluted with water acidified with concentrated acetic acid and extracted with ethylacetate. The organic layer was dried and evaporated. The residue was crystallized with diethyl ether to give 60 mg of the desired product. Rt: 0.94 min (method K), (M+H)+: 263

reactant | sodium hydroxide | 930 mg | [OH-].[Na+]
reactant | (1-ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-acetonitrile | 525 mg | C(C)N1C(=NC(=C1)C1=CC(=C(C=C1)F)C)CC#N | C14H14FN3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 6 mL | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (1-Ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-acetic acid | 60 mg | C(C)N1C(=NC(=C1)C1=CC(=C(C=C1)F)C)CC(=O)O | C14H15FN2O2
